US06399773B1
2Bromo-5-nitrotoluene (1.0 g, 4.54 mmol) and vinyltributyl tin (1.59 g, 4.99 mmol) were dissolved in toluene (25 mL) under argon. Palladium dibenzylidene acetone (4.15 g, 0.455 mmol) and triphenylphosphine (488 mg, 1.86 mmol) was added and the reaction refluxed overnight. The solvent was evaporated and the residue dissolved in 200 mL of methylene chloride and washed with 10% ammonium hydroxide, water, and brine. The organic layer was dried over magnesium sulfate, filtered and concentrated. The crude product was purified by flash column chromatography heptane-methylene chlolride 1:1) to yield 726 mg of 2-methyl-4-nitrostyrene. 2-methyl-4-nitrostyrene (700 mg, 4.5 mmol) was dissolved in methylene chloride (20 mL) and cooled to −78° C., and treated with ozone until a blue color remained, after 5 minutes the excess ozone was removed by passing a stream of oxygen through the solution. Dimethyl sulfide (1 mL) was added and the reaction mixture stirred at room temperature overnight. The solvent was evaporated and the residue purified by flash column chromatography to yield 580 mg of the 2-methyl-4-nitrobenzaldehyde. 2-Methyl-4-nitrobenzaldehyde (570 mg, 3.45 mmol) and potassium carbonate (476 mg, 3.45 mmol) were suspended in methanol. Tosylmethylisocyanide (674 mg, 3.45 mmol) was added and the reaction mixture refluxed for 3 h, cooled to room temperature and concentrated. The residue was dissolved in methylene chloride (200 mL) and the organic layer was washed with water and brine. The organic layer was dried over magnesium sulfate, filtered and concentrated to yield 710 mg (94%) of 5-(4-nitro-2-methylphenyl)oxazole. 5-(4-Nitro-2-methylphenyl)oxazole was dissolved in methanol (100 mL) and 10% palladium on carbon 200 mg was wetted with water and added. The reaction mixture was hydrogenated at 45 psi overnight. The catalyst was removed by filtration and 560 mg of 5-(4-amino-2-methylphenyl)oxazole was isolated in 92% purity by HPLC method A. Mass spectrum M+H+=175.1, 1H 400 MHz NMR (CDCl3): δ7.88 (s, 1H), 7.45 (m, 1H), 7.08 (s, 1H), 6.60 m(m, 2H), 2.38 (s, 3H).

reactant | 5-(4-Nitro-2-methylphenyl)oxazole | [N+](=O)([O-])C1=CC(=C(C=C1)C1=CN=CO1)C | C10H8N2O3
reactant | water | O | H2O
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 5-(4-amino-2-methylphenyl)oxazole | 560 mg | NC1=CC(=C(C=C1)C1=CN=CO1)C | C10H10N2O
